US07947738B2
(12-b) 2-Isobutyl-4-pentenal
Oxalyl chloride (5.45 g, 43 mmol) was dissolved in methylene chloride (50 mL), and the solution was cooled to −78° C. Then, dimethyl sulfoxide (6.1 mL) was added dropwise thereto. To the mixture, a methylene chloride (40 mL) solution of 2-isobutylpent-4-en-1-ol (4.9 g, 34 mmol) was subsequently added dropwise, and the mixture was stirred at this temperature for 1 hour. Triethylamine (24 mL) was added thereto, and the mixture was brought to room temperature. A saturated aqueous solution of ammonium chloride was added thereto. The organic layer was separated, washed with water and saturated saline, then dried, and then concentrated to obtain the compound of interest as an oil substance. This compound was used in the next reaction without being purified.

reactant | Oxalyl chloride | 43 mmol, 5.45 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 6.1 mL | CS(=O)C | C2H6OS
reactant | 2-isobutylpent-4-en-1-ol | 34 mmol, 4.9 g | C(C(C)C)C(CO)CC=C | C9H18O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | Triethylamine | 24 mL | C(C)N(CC)CC | C6H15N
product | 2-Isobutyl-4-pentenal | C(C(C)C)C(C=O)CC=C | C9H16O
